US05977136
N-(4-T-Butoxycarbonylamino-Phenyl)-3-Methyl-Butyramide
To a stirred solution of N-t-butoxycarbonyl-1,4-phenylene diamine (0.2 g) in dry tetrahydrofuran (20 ml) were added pyridine (0.15 ml) and 3-methylbutyryl chloride (0.13 g) and the reaction mixture was stirred for 1 hrs. The solution was diluted with ethyl acetate (50 ml), washed with a 3 N solution of hydrochloric acid (30 ml) and brine (30 ml), dried and concentrated in vacuum to give the title compound (0.27 g). T.l.c. cyclohexane/ethyl acetate 1/1, Rf =0.71.

reactant | N-t-butoxycarbonyl-1,4-phenylene diamine | 0.2 g | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)N | C11H16N2O2
reactant | pyridine | 0.15 ml | N1=CC=CC=C1 | C5H5N
reactant | 3-methylbutyryl chloride | 0.13 g | CC(CC(=O)Cl)C | C5H9ClO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | N-(4-T-Butoxycarbonylamino-Phenyl)-3-Methyl-Butyramide | 0.27 g | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)NC(CC(C)C)=O | C16H24N2O3
